US09080127B2
Synthesis of Pentaerythritol Tetra(3-carboxypropiolate)
34.0 g (0.25 mol) of pentaerythritol and 120.1 g (1.2 mol) of succinic anhydride were heated at 150° C. and stirred for 1 hour. This was cooled to room temperature, and 250 mL of ethyl acetate and 250 mL of acetone were added thereto, and left as such for 3 days. The precipitated crystal was taken out through reduced pressure filtration, and washed with a mixed solvent of equal parts of ethyl acetate and acetone to give 98.6 g of a white crystal.

reactant | pentaerythritol | 0.25 mol, 34.0 g | OCC(CO)(CO)CO | C5H12O4
reactant | succinic anhydride | 1.2 mol, 120.1 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
reactant | acetone | 250 mL | CC(=O)C | C3H6O
product | Pentaerythritol Tetra(3-carboxypropiolate) | 98.6 g | C(=O)(O)C#CC(=O)OCC(COC(C#CC(=O)O)=O)(COC(C#CC(=O)O)=O)COC(C#CC(=O)O)=O | C21H12O16
